US05635510
78.1 Synthesis of 1-benzyl-4-(4-trifluoromethyl-phenyl)-4-cyano-piperidine
Prepare by the method of example 76.1 using 4-trifluoromethylphenyl-acetonitrile (1.5 g, 8.1 mmol) and N,N-bis(2-chloroethyl)-N-benzylamine hydrochloride (1.9 g, 8.1 mmol) to give the title compound.

reactant | 4-trifluoromethylphenyl-acetonitrile | 8.1 mmol, 1.5 g | FC(C1=CC=C(C=C1)CC#N)(F)F | C9H6F3N
reactant | N,N-bis(2-chloroethyl)-N-benzylamine hydrochloride | 8.1 mmol, 1.9 g | Cl.ClCCN(CC1=CC=CC=C1)CCCl
product | 1-benzyl-4-(4-trifluoromethyl-phenyl)-4-cyano-piperidine | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)C1=CC=C(C=C1)C(F)(F)F | C20H19F3N2
